### ISSUE TITLE
feat: prove Gram-Schmidt cut soundness producing CutRetention

### ISSUE THREAD

**Issue by kim-em** [kim-em/hex-dev#7575]
library: HexBerlekampZassenhausMathlib

Forward-route cut heart for #6771. Corrected replacement for #7572, whose
"short extraction from existing short-norm / GS infrastructure" framing was
wrong: the producer of the retention content bottoms out on a genuinely
missing analytic lemma (verified against tree HEAD `e80e03cf`, re-confirmed on
current `main`). This issue records the corrected decomposition the producer
actually requires.

## Why the previous framing failed

`CutRetention` (`Lattice.lean:408`) and `CutSurvival` (`Lattice.lean:539`)
remain structures with no producer — every occurrence is an `hret`/`hcut`
parameter of a consumer (`CutProjectionHypotheses.ofRetention`
`Lattice.lean:420`, `cutProjectionHypotheses_of_retention` `Lattice.lean:437`,
`CutSurvival.toCut` `Lattice.lean:558`). The only landed `projectedRowSpanInt`
lemma is the trivial self-membership `projectedRow_mem_projectedRowSpanInt`
(`Lattice.lean:525`); the forward cut-soundness statement is absent.

`CutRetention.mem_projected_of_norm_le` requires proving that every integer
vector within the stored cut radius lies in `projectedRowSpanInt` of the
post-cut, projected rows produced by `bhksCutProjectReducedRows`
(`Basic.lean:5004`). The adjacent landed content is only norm **upper** bounds
on indicators (`indicatorVector_sq_sum_le_projectedRows_cutRadiusSq4`
`Lattice.lean:108`, the `hnorm` input already consumed by `ofRetention`), not
span membership. `CutSurvival.rowOfIndicator_eq` is not an easier alternative:
it demands a retained projected row literally equal to each true-support
indicator, which the LLL→GS-cut→project pipeline does not guarantee verbatim.

## Deliverables

1. **Analytic heart (the real work).** Prove the Gram–Schmidt cut-soundness
   lemma, roughly:

   ```
   theorem mem_projectedRowSpanInt_of_norm_le
       (L : BhksLatticeBasis) (hrows : 1 ≤ L.factorCount + L.coeffWidth)
       (v : Fin (bhksProjectedRows L hrows).factorCount → ℤ)
       (hv : (∑ i, (v i : ℝ)^2) ≤ ((bhksProjectedRows L hrows).cutRadiusSq4 : ℝ)) :
       v ∈ projectedRowSpanInt (bhksProjectedRows L hrows)
   ```

   This is a substantial linear-algebra formalization, end to end:
   - a `gramDetVec`-to-`‖b*_i‖²` correspondence (connect the Bareiss integer
     leading Gram determinants on `GramSchmidt.Int.gramDetVec` to the real
     Gram–Schmidt orthogonal norms `‖b*_i‖² = d_i/d_{i-1}`);
   - that the LLL-reduced rows surviving `bhksWithinGramSchmidtCut`
     (`4·d_{i+1}/d_i ≤ cutRadiusSq4`) span every integer vector of squared
     norm `≤ cutRadiusSq4` (the cut discards only rows too long to contribute);
   - that `bhksProjectIndicator` to the first `r` coordinates preserves that
     span membership.

2. **Wrapper.** With (1), `CutRetention L` is a one-line wrapper. Expose a
   producer concluding `CutRetention (bhksProjectedRows L hrows)` (and/or
   `CutSurvival`), and feed `cutProjectionHypotheses_of_retention` /
   `CutSurvival.toCut` from core facts at the executable default cap, so the
   forward `W ⊆ L'` route's `trueFactorIndicatorLattice_le_projectedRowSpan`
   (`Lattice.lean:459`) and
   `factorFastCoreWithBound_some_factor_zpolyIrreducible_of_cut`
   (`PartitionRefinement.lean:477`) discharge `CutProjectionHypotheses` for
   #6771.

This is the live forward route, not the retired reverse `L'=W` /
bad-vector-resultant route (#6779, off the correctness critical path).

## Notes

Deliverable 1 is the heart and may itself be large enough to split; a worker
who finds it should land the `gramDetVec`→`‖b*_i‖²` correspondence as its own
PR before the span statement. Do not discharge `CutRetention` with an added
assumption, a `sorry`, or an `axiom`; if a further analytic gap appears,
replan with the missing-lemma shape.

Supersedes #7572 (closed; its diagnostic comment records the full
missing-lemma trace).

## Verification

- `lake build HexBerlekampZassenhausMathlib`
- `python3 scripts/check_dag.py`
- `git diff --check`
- No new `sorry` / `axiom` / `native_decide` / `TODO` / `FIXME` on added lines.

**Comment by kim-em** [comment]
Session: `89568d34-617a-40d8-8e46-f6fab4b74c7d` Branch: `agent/89568d34`

**Comment by kim-em** [comment]
Claimed by session `a3de178b-dd14-4830-9f6a-8aba933dfbad` on branch `agent/a3de178b`

**Comment by kim-em** [comment]
## Premise check: the `CutRetention` producer target is unsound as stated

I claimed this issue and checked deliverable 1's type signature against the
existing types before writing any proof (per the "directives are hypotheses"
doctrine). The producer target `CutRetention (bhksProjectedRows L hrows)` —
equivalently the proposed

```
theorem mem_projectedRowSpanInt_of_norm_le (L) (hrows) (v)
    (hv : (∑ i, (v i : ℝ)^2) ≤ (cutRadiusSq4 : ℝ)) :
    v ∈ projectedRowSpanInt (bhksProjectedRows L hrows)
```

**does not admit a proof.** It is false, and on the cases that matter it
directly contradicts the project's own `L' = W` goal. No analytic lemma can
fix this; the statement itself is wrong.

### 1. Machine-checked counterexample

`CutRetention.mem_projected_of_norm_le` asserts that *every* integer vector
within the cut radius lies in the span of the retained projected rows. But
membership in a sublattice never follows from a norm bound alone: the span of
the retained rows is some sublattice `Λ ⊆ ℤ^r`, and "short ⟹ in `Λ`" requires
`Λ` to already contain a short generating set — which the LLL+cut+project
pipeline does not guarantee.

Concretely, take `factorCount = 1`, `coeffWidth = 0`, `basis = [[2]]`. The
single reduced row has `‖b*₀‖² = 4`, and the cut keeps row `i` iff
`4·‖b*ᵢ‖² ≤ cutRadiusSq4`; here `4·4 = 16 > 4 = cutRadiusSq4`, so the row is
cut and `projectedRows = #[]`. Running the actual executable function:

```lean
def Lbad : BhksLatticeBasis where
  p := 2; precision := 1; factorCount := 1; coeffWidth := 0
  liftedFactors := #[]; cutThresholds := #[]; cldRows := #[]
  basis := Matrix.ofFn (fun (_ _ : Fin (1 + 0)) => (2 : Int))

#eval let pr := bhksProjectedRows Lbad (by decide)
      (pr.factorCount, pr.cutRadiusSq4, pr.projectedRows.size)
-- (1, 4, 0)
```

So `projectedRowSpanInt (bhksProjectedRows Lbad _) = ⊥`, yet `v = ![1]` has
`‖v‖² = 1 ≤ 4 = cutRadiusSq4`. The certificate would force `![1] ∈ ⊥`. Fully
kernel-checked (`lake env lean`, no `sorry`/`axiom`/`native_decide`):

```lean
theorem no_cutRetention_of_empty (P : BhksProjectedRows)
    (hsize : P.projectedRows.size = 0) (hr : 0 < P.factorCount)
    (hcut : (P.factorCount : ℝ) ≤ (P.cutRadiusSq4 : ℝ)) :
    IsEmpty (CutRetention P) := by
  have hbot : projectedRowSpanInt P = ⊥ := by
    rw [projectedRowSpanInt, Submodule.span_eq_bot]
    rintro x ⟨i, rfl⟩
    exact ((Nat.lt_of_le_of_lt (Nat.zero_le i.val) i.isLt).ne' hsize).elim
  set v : Fin P.factorCount → ℤ := fun _ => 1 with hv
  have hshort : (∑ i, ((v i : ℝ)) ^ 2) ≤ (P.cutRadiusSq4 : ℝ) := by
    have : (∑ i, ((v i : ℝ)) ^ 2) = (P.factorCount : ℝ) := by simp [hv]
    rw [this]; exact hcut
  have hne : v ≠ 0 := fun h => by
    have : v ⟨0, hr⟩ = 0 := by rw [h]; rfl
    simp [hv] at this
  refine ⟨fun hret => hne ?_⟩
  have := hret.mem_projected_of_norm_le v hshort
  rwa [hbot, Submodule.mem_bot] at this
```

`#eval` confirms `bhksProjectedRows Lbad _` is exactly such a `P`
(`size = 0`, `factorCount = 1`, `cutRadiusSq4 = 4`), so
`CutRetention (bhksProjectedRows Lbad _)` is uninhabitable.

### 2. It contradicts the `L' = W` goal on every nontrivial factorization

This is not just a degenerate-input artifact. `CutRetention` says *all* short
integer vectors are in `L'`. The project's target is `L' = W`
(`projectedRowSpan_eq_trueFactorIndicatorLattice`), where `W` is the span of
the true-factor indicators. Whenever two lifted local factors share one true
factor — the entire reason the indicator lattice exists — `W ⊊ ℤ^r`. E.g.
`r = 2`, one true factor with support `{0,1}`: `W = span{(1,1)} = {(n,n)}`,
and `(1,0)` is short (`‖·‖² = 1 ≤ cutRadiusSq4 = 8`) but `(1,0) ∉ W`. If
`L' = W`, then `CutRetention` demands `(1,0) ∈ L' = W`, false. So
`CutRetention` can hold only when `W = ℤ^r` (every support a singleton — the
trivial no-real-lifting case), i.e. it is false on exactly the cases the
pipeline is built for.

### 3. The downstream route never needs this strength

The forward consumer `factorFastCoreWithBound_some_factor_zpolyIrreducible_of_cut`
(`PartitionRefinement.lean:477`) takes `CutProjectionHypotheses` — the weak
`W ≤ L'` fact (each *true indicator* ∈ `L'`). `CutRetention` is only an
intermediate fed through `cutProjectionHypotheses_of_retention` →
`ofRetention`, which instantiates `mem_projected_of_norm_le` solely at the
indicators. The universal-over-`ℤ^r` quantifier is pure over-generalization;
it is never consumed, and it is what makes the statement false.

### Recommended corrected decomposition

Drop the norm-bound ⟹ membership framing entirely. The real content is a
cut-soundness lemma **on the full lattice `L`**, not on `ℤ^r`:

- the LLL rows surviving `bhksWithinGramSchmidtCut` ℤ-span every vector *of the
  lattice `L`* within the cut radius (the genuine GS/LLL fact, using the
  `gramDetVec → ‖b*ᵢ‖²` correspondence `basis_normSq` /
  `gramDet_eq_prod_normSq` in `HexGramSchmidtMathlib/Int.lean`);
- each *true-factor indicator* is in `L'` because it is the projection of a
  genuine short element of `L` (the lifted-factor vector), which therefore
  survives the cut — producing `CutProjectionHypotheses` (or `CutSurvival`)
  **directly from the factorization data**, not via `CutRetention`.

That keeps the obligation at the strength the downstream route actually needs
(`W ≤ L'`) and consistent with `L' = W`. The `CutRetention` structure
(`Lattice.lean:408`) and `cutProjectionHypotheses_of_retention`
(`Lattice.lean:437`) / `..._of_retention` (`PartitionRefinement.lean:499`)
should be retired or restated, since no producer for them can exist.

Leaving this for replan with a corrected deliverable-1 statement; not filing a
sub-decomposition against the unsound target.

**Comment by kim-em** [comment]
Skipped by session `a3de178b-dd14-4830-9f6a-8aba933dfbad` (needs replan): premise unsound: CutRetention producer target is false (kernel-checked counterexample, contradicts L'=W goal) — see comment for corrected decomposition

**Comment by kim-em** [comment]
Closed in favor of #7578. The current CutRetention producer target is false as stated, as shown by the kernel-checked counterexample and the intended L-prime-equals-W contradiction in the triage comment above. The corrected replacement targets direct CutProjectionHypotheses / true-indicator membership instead of universal short-vector retention.
